US07250516B2
The compound obtained as an intermediate in Process 3 of Example 6, that is, methyl (2S)-2-amino-3-[4-(4-methoxy-1-methyl-2-oxo-1,2-dihydro-3-quinolinyl)phenyl]propionate (50 mg) was acylated with 2-chloro-6-methylbenzoic acid by the same procedure as that of Process 1 of Example 17 to obtain methyl (2S)-2-[(2-chloro-6-methylbenzoyl)amino]-3-[4-(4-methoxy-1-methyl-2-oxo-1,2-dihydro-3-quinolinyl)phenyl]propionate (38 mg).

reactant | methyl (2S)-2-amino-3-[4-(4-methoxy-1-methyl-2-oxo-1,2-dihydro-3-quinolinyl)phenyl]propionate | 50 mg | N[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1C(N(C2=CC=CC=C2C1OC)C)=O | C21H22N2O4
reactant | 2-chloro-6-methylbenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
product | methyl (2S)-2-[(2-chloro-6-methylbenzoyl)amino]-3-[4-(4-methoxy-1-methyl-2-oxo-1,2-dihydro-3-quinolinyl)phenyl]propionate | 38 mg | ClC1=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C=2C(N(C3=CC=CC=C3C2OC)C)=O)C(=CC=C1)C | C29H27ClN2O5
